US09163021B2
(5-aminopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone
To a mixture of (5-bromopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone (Preparation 37, 4.3 g, 12.5 mmol) in aqueous 880 ammonia (65 mL) was added CuSO4.5H2O (936 mg, 3.75 mmol) and the reaction was heated at 130° C. in an autoclave for 18 hours. The reaction was extracted into DCM and the organic layer collected, filtered, dried over sodium sulphate and concentrated in vacuo. The residue was purified through alumina eluting with 1-3% MeOH in DCM to afford the title compound as a white solid (2.1 g, 60%).

reactant | (5-bromopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | 12.5 mmol, 4.3 g | BrC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H14BrN3O
reactant | ammonia | 65 mL | N | H3N
product | (5-aminopyridin-3-yl)(1-isopropyl-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | 2.1 g, 60% | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(C)C | C16H16N4O
